US08349824B2
A mixture of 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid (100 mg, 276 μmol), 1,4-diazabicyclo[3.2.1]octane dihydrochloride (102 mg, 552 μmol), propylphosphonic anhydride (50% in ethyl acetate, 407 μl, 690 μmol) and N,N-diisopropylethylamine (469 μl, 2.76 mmol) in tetrahydrofuran (4.5 ml) was stirred overnight at 25° C. The mixture was applied on basic silica gel and purified by column chromatography using dichloromethane/methanol 19:1 as eluent to give 4-(1,4-diaza-bicyclo[3.2.1]octane-4-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (45 mg, 35.7%) as a white solid. mp: 110.1, MS: m/z=457.2 (M+H+).

reactant | 1-methyl-5-(2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | 276 μmol, 100 mg | CN1N=CC(=C1C(NC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2)=O)C(=O)O | C18H14N6O3
reactant | 1,4-diazabicyclo[3.2.1]octane dihydrochloride | 552 μmol, 102 mg | Cl.Cl.N12CCNC(CC1)C2
reactant | propylphosphonic anhydride | 690 μmol, 407 μl | CCCP(=O)=O | C3H7O2P
reactant | N,N-diisopropylethylamine | 2.76 mmol, 469 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
product | 4-(1,4-diaza-bicyclo[3.2.1]octane-4-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-phenyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 45 mg, 35.7% | C1(=CC=CC=C1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCN3CCC2C3)C)=N1 | C24H24N8O2
